US06194426B1
2-Bromo-3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile is prepared as described in Example 9, from 1.6 g of 3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile and 1.3 g of N-bromosuccinimide. 1.8 g of 2-bromo-3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile are thus obtained in the form of beige powder melting at 172° C.

reactant | 3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 1.6 g | FC1=NC=CC=C1C1=CC(=C2CCCCN12)C#N | C14H12FN3
reactant | N-bromosuccinimide | 1.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2-bromo-3-(2-fluoro-3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 1.8 g | BrC=1C(=C2CCCCN2C1C=1C(=NC=CC1)F)C#N | C14H11BrFN3
